US05462952
5-[2-[(2,6-Dichloro-3-methylphenyl)amino]phenyl]-1,3,4-thiadiazol-2-amine
Methanesulfonic acid (280 μl, 4.31 mol) is added dropwise to a suspension of 2-[(2,6-dichloro-3-methylphenyl) amino]-benzoic acid, 2-(aminothioxomethyl)hydrazide (1.008 g, 2.73 mmol) in 30 ml of toluene. The mixture is heated at reflux for three hours under a nitrogen atmosphere and allowed to cool to room temperature overnight. The tan solid is filtered off and suspended in 100 ml of ethyl acetate. The suspension is then stirred vigorously with 40 ml of 10% aqueous ammonium hydroxide, and the layers are separated. The ethyl acetate layer is washed with water, and dried over magnesium sulfate. Filtration and concentration in vacuo gives a white solid. Drying at 60° C. in vacuo overnight provides 560.8 mg (59%) of product, mp 219°-226° C.

reactant | Methanesulfonic acid | 4.31 mol, 280 μl | CS(=O)(=O)O | CH4O3S
reactant | 2-[(2,6-dichloro-3-methylphenyl) amino]-benzoic acid, 2-(aminothioxomethyl)hydrazide | 2.73 mmol, 1.008 g | NC(NNC(C1=C(C=CC=C1)NC1=C(C(=CC=C1Cl)C)Cl)=O)=S | C15H14Cl2N4OS
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 5-[2-[(2,6-Dichloro-3-methylphenyl)amino]phenyl]-1,3,4-thiadiazol-2-amine | 560.8 mg, 59% | ClC1=C(C(=CC=C1C)Cl)NC1=C(C=CC=C1)C1=NN=C(S1)N | C15H12Cl2N4S
